US04788196
A mixture of 1-(4-nitrophenyl)-4-(4-pyridyl)piperazine (2.07 g) in ethanol (100 ml) was hydrogenated at room temperature under a pressure of 2 bars in the presence of 10% palladium on charcoal (0.25 g). When reduction was complete, the catalyst was filtered off and the filtrate was evaporated. The residue was crystallised from methanol/ethyl acetate to give 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (1.08 g), m.p. 210°-211° C. Found: C,70.47; H,7.07; N,21.56. C15H18N4 requires: C,70.83; H,7.13; N,22.03%.

reactant | 1-(4-nitrophenyl)-4-(4-pyridyl)piperazine | 2.07 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H16N4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 1.08 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
